Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Mid-back pain 
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
This is a ___ year old female with history of T6 paraplegia with 
history of recurrent UTIs who is presenting with low mid-back 
pain consistent with her prior episodes of urinary tract 
infections. She denies dysuria, fevers, chills, or other active 
problems on review of systems. Her pain initially began 2 days 
prior to admission with constant low mid-back pain wrapping 
around to flanks bilaterally associated with diaphoresis. She 
took ___ Percocets with mild relief; however her pain persisted 
and she presented to the ED. She was afebrile in the emergency 
room; urine analysis was significant for mild pyuria and 
positive nitrites; cultures from urine were pending. She 
apparently has ___ episodes of urinary tract infections monthly 
and has taken several agents in the past including bactrim, 
ciprofloxacin, and levaquin for varying urine organism 
sensitivities. We do not have records of her resistance 
patterns. She has on occasion taken pyridium for bladder spasms 
but she denies any of these currently. Occasionally takes 
cranberry juice. Has seen a urologist in outpatient. She 
self-catheterizes but has not had any indwelling catheters; 
self-catheterizations extend back over the past ___ years dating 
back to her T6 paraplegia secondary to motor vehicle accident. 
Review of systems otherwise negative. 
 
Past Medical History:
-T6 paraplegia
-Muscle spasms
 
Social History:
___
Family History:
NC
 
Physical Exam:
VS: 115/71, 86, 18, 100% RA  
Gen: Morbidly obese female in mild pain  
HEENT: Anicteric  
Neuro: No motor function in lower extremities and absent light 
touch and pinprick sensation in lower extremities consistent 
with T6 lesion; upper torso + extremities have good movement 
with intact sensation and motor function  
Cardiac: Nl s1/s2 RRR  
Lungs: occasional inspiratory and expiratory wheezes  
Abd: soft, nontender and nondistended, no suprapubic tenderness  

Ext: 1+ lower extremity edema noted  

 
Pertinent Results:
___ 01:45AM   GLUCOSE-127* UREA N-11 CREAT-0.5 SODIUM-144 
POTASSIUM-3.9 CHLORIDE-109* TOTAL CO2-21* ANION GAP-18
___ 01:45AM   CK(CPK)-121
___ 01:45AM   CK-MB-3 cTropnT-<0.01
___ 02:04AM   LACTATE-2.9*
___ 01:45AM   WBC-7.9 RBC-4.21 HGB-10.9* HCT-35.5* MCV-84 
MCH-25.9* MCHC-30.8* RDW-14.7
___ 01:45AM   NEUTS-74.0* ___ MONOS-2.8 EOS-2.9 
BASOS-0.7
___ 01:45AM URINE  BLOOD-MOD NITRITE-POS PROTEIN-75 
GLUCOSE-NEG KETONE-TR BILIRUBIN-SM UROBILNGN-1 PH-5.0 LEUK-TR
___ 01:45AM URINE  ___ BACTERIA-FEW YEAST-NONE 
___
 
Brief Hospital Course:
Ms ___ was admitted for mid-low back pain similar to 
prior chronic pain secondary to spasms from her T6 paraplegia.  
She felt her pain was similar to the pain she gets with urinary 
tract infections; her UA was mildly positive with positive 
nitrites and 5 WBCs.  We initiated treatment with ciprofloxacin; 
on day of discharge her urine culture prior to antibiotic 
administration grew out <10,000 colonies.  Urine sensitivities 
were pending at time of discharge.  We did not feel there was 
significant evidence for treatment of urinary tract infection 
although given her history we are completing a short, three day 
course to prevent development of resistance.  She was scheduled 
for follow up with her primary care doctor.  We continued her 
pain control with percocet as well as her baclofen and neurontin 
for her muscle spasms.  
 
Medications on Admission:
(1) Neurontin 900 mg qid  
(2) Baclofen 40 mg qid  
(3) Percocet PRN  

 
Discharge Medications:
1. Gabapentin 300 mg Capsule Sig: Three (3) Capsule PO QID (4 
times a day).  
2. Baclofen 10 mg Tablet Sig: Four (4) Tablet PO QID (4 times a 
day).  
3. Oxycodone-Acetaminophen ___ mg Tablet Sig: One (1) Tablet 
PO Q4H (every 4 hours) as needed for pain.  
4. Ciprofloxacin 250 mg Tablet Sig: One (1) Tablet PO Q12H 
(every 12 hours).
Disp:*3 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___:
1. Urinary tract infection
2. T6 paraplegia 

 
Discharge Condition:
Improved pain, afebrile.  

 
Discharge Instructions:
Dear ___, 

You were admitted for worsening pain and a urinary tract 
infection.  We started you on ciprofloxacin to treat this 
infection.  You will need to continue this for one more day.  We 
are waiting for your urine tests to come back to figure out if 
cipro is working for you.  If we find that you are growing 
bacteria resistant to ciprofloxacin, we will be in touch with 
you to recommend changes in your antibiotics.  If you develop 
worsening fevers, pain, or difficulty/pain urinating, please 
call your primary care doctor or return to the emergency 
department. 
.
The only medication change we are making is starting you on 
ciprofloxacin.  You should continue this for one more day.  
 
Followup Instructions:
___